US09238640B2
To a suspension of 2-amino-5-methoxy-benzoic acid (5.00 g, 30.0 mmol) in THF (50 mL) were added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (7.50 g, 39.0 mmol), 1-hydroxybenzotriazole (4.50 g, 33.0 mmol) and 4-methylmorpholine (3.6 mL, 33.0 mmol) and the reaction mixture was stirred at room temperature for 1 hours. Then, 50% aqueous NH3 (8 mL, 105.0 mmol) was added and the reaction mixture was stirred at room temperature for 16 hours. Water (100 mL) was added and the product was extracted with ethyl acetate. Solvent was evaporated in vacuo and the residue was washed with ether to give 2-amino-5-methoxy-benzamide as a white solid. Yield: 2.62 g (53%).

reactant | 2-amino-5-methoxy-benzoic acid | 30.0 mmol, 5.00 g | NC1=C(C(=O)O)C=C(C=C1)OC | C8H9NO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 39.0 mmol, 7.50 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 33.0 mmol, 4.50 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-methylmorpholine | 33.0 mmol, 3.6 mL | CN1CCOCC1 | C5H11NO
reactant | NH3 | 105.0 mmol, 8 mL | N | H3N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | Water | 100 mL | O | H2O
product | 2-amino-5-methoxy-benzamide | NC1=C(C(=O)N)C=C(C=C1)OC | C8H10N2O2
